US07960369B2
methyl 2′-isobutyl-6′-methylbiphenyl-3-carboxylate
The title compound was synthesized in the same manner as in Reference Example 217 from methyl 2′-formyl-6′-methylbiphenyl-3-carboxylate and isopropyltriphenylphosphonium iodide. colorless oil (yield 45%).

reactant | methyl 2′-formyl-6′-methylbiphenyl-3-carboxylate | C(=O)C1=C(C(=CC=C1)C)C1=CC(=CC=C1)C(=O)OC | C16H14O3
reactant | isopropyltriphenylphosphonium iodide | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 2′-isobutyl-6′-methylbiphenyl-3-carboxylate | C(C(C)C)C1=C(C(=CC=C1)C)C1=CC(=CC=C1)C(=O)OC | C19H22O2
